US05576324
N-(4-Methoxyphenyl)cinnamamide:
p-Anisidine (25 g, 0.203 mol) was suspended in acetone (400 ml), to which pyridine (19.7 ml, 0.244 mol) was added. While cooling on ice, cinnamoyl chloride (37.2 g, 0.223 mol) was further added, followed by stirring at ambient temperature for 20 minutes. As a result, a uniform solution was obtained. The solvent was condensed under reduced pressure. To the residue, ethyl acetate and water were added. The sediment was collected by filtration, washed with ethyl acetate and water, and dried with air. 50.4 g of the title compound was obtained as pale greenish brown powder (98.0%, mp.: 147°-150° C.).

reactant | p-Anisidine | 0.203 mol, 25 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | pyridine | 0.244 mol, 19.7 ml | N1=CC=CC=C1 | C5H5N
reactant | cinnamoyl chloride | 0.223 mol, 37.2 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-(4-Methoxyphenyl)cinnamamide | 50.4 g | COC1=CC=C(C=C1)NC(C=CC1=CC=CC=C1)=O | C16H15NO2
